US04757085
Butyl 2-(fur-3-yl)-2-oxo-acetate
A mixture of 39.6 g of butyl fur-3-yl-glycolate and 8.6 g of lead tetraacetate in 400 ml of absolute benzene is refluxed for 8 hours. After cooling to room temperature, the salts are filtered off and washed with benzene, and the combined benzene phases are shaken with a 10% strength sodium bicarbonate solution and a saturated sodium chloride solution. After drying over sodium sulphate, filtering off and concentrating, the oily residue is distilled in vacuo. 32.7 g (83%) of an oil, boiling point 80° C. (0.3 Torr), nD20 =1.477, are obtained.

reactant | butyl fur-3-yl-glycolate | 39.6 g | O1C=C(C=C1)C(C(=O)OCCCC)O | C10H14O4
reactant | lead tetraacetate | 8.6 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | Butyl 2-(fur-3-yl)-2-oxo-acetate | 32.7 g, 83% | O1C=C(C=C1)C(C(=O)OCCCC)=O | C10H12O4
